US08623911B2
To a solution of 2-[2-(2-bromo-phenyl)-ethoxy]-tetrahydro-pyran (1.0 g, 3.5 mmol, 1.0 eq.) in THF (20 mL) at −78° C. was slowly added BuLi (2.4 mL, 2.5 M solution in THF, 3.8 mmol, 1.1 eq.) under nitrogen atmosphere. Triisopropyl borate (1.2 mL, 5.25 mmol, 1.5 eq.) was then added and the mixture was allowed to warm to room temperature gradually and stirred overnight. After carefully adding HCl (10 mL, 6N), the yellowish solution was stirred at room temperature for another 1 h and then poured into a mixture of EtOAc (30 mL) and H2O (20 mL). The layers were separated and the aqueous phase was extracted with EtOAc (3×30 mL). Combined organic extracts was washed with H2O (50 mL), brine (50 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The oily residue was applied to silica chromatography eluting with EtOAc/Heptanes (0:100 to 100:0) to give 3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol as a light yellow solid. 1H NMR (acetone) δ: 7.73 (d, J=7.2 Hz, 1H), 7.33-7.39 (m, 1H), 7.15-7.26 (m, 3H), 4.10 (t, J=6.0 Hz, 2H), 2.88 (t, J=6.0 Hz, 2H). Amount obtained 497 mg, 95.9% yield.

reactant | 2-[2-(2-bromo-phenyl)-ethoxy]-tetrahydro-pyran | 3.5 mmol, 1.0 g, 1.0 eq. | BrC1=C(C=CC=C1)CCOC1OCCCC1 | C13H17BrO2
reactant | BuLi | 3.8 mmol, 2.5 M, 2.4 mL, 1.1 eq. | [Li]CCCC
reactant | Triisopropyl borate | 5.25 mmol, 1.2 mL, 1.5 eq. | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 6N, 10 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 95.9% yield | B1(OCCC2=C1C=CC=C2)O | C8H9BO2
